US05462954
3-(4-(4-Fluorophenyl)-2-bromo-5-methoxyphenoxy)propyl chloride
The title intermediate was prepared from 4-(2-methoxy-4-hydroxy-5-bromophenyl)fluorobenzene and 3-bromopropyl chloride in 84% yield by the procedure of Preparation 36. NMR

reactant | 4-(2-methoxy-4-hydroxy-5-bromophenyl)fluorobenzene | COC1=C(C=C(C(=C1)O)Br)C1=CC=C(C=C1)F | C13H10BrFO2
reactant | 3-bromopropyl chloride | BrCCCCl | C3H6BrCl
product | 3-(4-(4-Fluorophenyl)-2-bromo-5-methoxyphenoxy)propyl chloride | 84% yield | FC1=CC=C(C=C1)C1=CC(=C(OCCCCl)C=C1OC)Br | C16H15BrClFO2
